### PR TITLE
chore: partially migrate from `ContinuousMap.continuous`

### PR DESCRIPTION
**Pull request by urkud**
... to `map_continuous` or `by fun_prop`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean [hunk 1]
```diff
@@ -292,7 +292,7 @@ lemma topologically_isZariskiLocalAtTarget [(topologically P).RespectsIso]
     simp_rw [topologically, morphismRestrict_base]
     exact hP₂ f.base U.carrier f.base.hom.2 U.2 hf
   · intro X Y f ι U hU hf
-    apply hP₃ f.base U hU f.base.hom.continuous fun i ↦ ?_
+    apply hP₃ f.base U hU (map_continuous _) fun i ↦ ?_
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:295]:
```suggestion
    apply hP₃ f.base U hU f.continuous fun i ↦ ?_
```

File: Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean [hunk 2]
```diff
@@ -292,7 +292,7 @@ lemma topologically_isZariskiLocalAtTarget [(topologically P).RespectsIso]
     simp_rw [topologically, morphismRestrict_base]
     exact hP₂ f.base U.carrier f.base.hom.2 U.2 hf
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:293]:
```suggestion
    exact hP₂ f.base U.carrier f.continuous U.2 hf
```

File: Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:295]: Which dot notation function does it call here?

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:295]: [`AlgebraicGeometry.Scheme.Hom.continuous`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/Scheme.html#AlgebraicGeometry.Scheme.Hom.continuous)
